US04704459
In 2 ml of anisole was dissolved 200 mg of diphenylmethyl ethyl 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoylmalonate, and 2 ml of trifluoroacetic acid was added thereto with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for 10 minutes. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diisopropyl ether, after which crystals were collected by filtration to obtain 120 mg (yield 94.3%) of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl]acetate.

reactant | diphenylmethyl ethyl 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoylmalonate | 200 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC)C=C(C(=N1)OC)F | C31H25F3N2O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl]acetate | 120 mg, yield 94.3% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OC)F | C17H15F3N2O4
